US04808595
Step C: Preparation of 4-Chloro-6-[2-(dimethylamino)ethyl]furo[3,2-c]pyridine
A mixture of 6-[2-(dimethylamino)ethyl]furo[3,2-c]pyridin-4(5H)-one (3.9 g, 18.9 mmole) and phosphorus oxychloride (5.0 g, 32.6 mmole) was heated, under an argon atmosphere, at 110° C. for 2.0 hours. The cooled blackish liquid was poured onto crushed ice and the solution made basic with sodium hydroxide solution. The alkaline mixture was extracted into methylene chloride (4×100 ml). The combined extracts were washed with water (1×25 ml), brine (2×25 ml) and dried (MgSO4). Solvent removal gave 4.0 g of an oil (88%, yield). The compound was used as is in the following step. A small sample was purified further using a preparative thin layer chromatography plate and eluting with a 25% methanol/74% chloroform/1.0% ammonium hydroxide mixture. The sample was removed from the plate using methylene chloride and treated with excess hydrogen chloride in ethanol. The ethanol was removed via vacuum and the resulting clear oil triturated with diethyl ether to give white crystals, mp: 212°-213° C.

reactant | 6-[2-(dimethylamino)ethyl]furo[3,2-c]pyridin-4(5H)-one | 18.9 mmole, 3.9 g | CN(CCC1=CC2=C(C(N1)=O)C=CO2)C | C11H14N2O2
reactant | phosphorus oxychloride | 32.6 mmole, 5.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-Chloro-6-[2-(dimethylamino)ethyl]furo[3,2-c]pyridine | 4.0 g, 88% | ClC1=NC(=CC2=C1C=CO2)CCN(C)C | C11H13ClN2O
